US04831055
Methyl 4-[2-(4-methylbenzamido)ethoxy]benzoate
Methyl 4-(2-aminoethoxy)benzoate (5.86 g) and 4.08 g of p-methylbenzoic acid were dissolved in 100 ml of N,N-dimethylformamide and then 6.19 g of N,N'-dicyclohexylcarbodiimide was gradually added thereto with stirring at room temperature.

reactant | Methyl 4-(2-aminoethoxy)benzoate | 5.86 g | NCCOC1=CC=C(C(=O)OC)C=C1 | C10H13NO3
reactant | p-methylbenzoic acid | 4.08 g | CC1=CC=C(C(=O)O)C=C1 | C8H8O2
reactant | N,N'-dicyclohexylcarbodiimide | 6.19 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | Methyl 4-[2-(4-methylbenzamido)ethoxy]benzoate | CC1=CC=C(C(=O)NCCOC2=CC=C(C(=O)OC)C=C2)C=C1 | C18H19NO4
